US06861440B2
To a solution of 4-(2-azido-ethyl)-2-(4-benzyloxy-phenyl)-5-methyl-oxazole (660 mg) in THF (10 ml) were added water (0.3 ml) and triphenylphosphine (570 mg). The reaction mixture was stirred over night at RT. Then the solvent was removed and the residue was purified by chromatography (CH2Cl2/MeOH 4:1) yielding 2-[2-(4-benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethylamine (380 mg) as a white solid.

reactant | 4-(2-azido-ethyl)-2-(4-benzyloxy-phenyl)-5-methyl-oxazole | 660 mg | N(=[N+]=[N-])CCC=1N=C(OC1C)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C19H18N4O2
reactant | water | 0.3 ml | O | H2O
reactant | triphenylphosphine | 570 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-[2-(4-benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethylamine | 380 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC(=C(N1)CCN)C | C19H20N2O2
